US07915281B2
4-Chloro-2-(ethoxymethyl)-1-[(3-phenylisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]quinoline (1.48 g, 3.53 mmol) was treated with a solution of 7 M ammonia in methanol (25 mL) at 150° C. for 17 hours. The volatiles were removed under reduced pressure and the resulting oil was diluted with dichloromethane and 1 M hydrochloric acid. A white solid formed and 50% aqueous sodium hydroxide was added to dissolve the solid. The aqueous layer was separated and extracted with dichloromethane. The organic layers were combined, washed with brine, dried over magnesium sulfate, filtered, and concentrated to an oil. Upon treatment of the oil with diethyl ether, a solid formed. The solid was purified by flash chromatography (silica gel, eluting with a mixture of 95% dichloromethane and 5% of a solution of 80% chloroform, 18% methanol, and 2% NH4OH (CMA)) followed by several recrystallizations from acetonitrile to provide 2-(ethoxymethyl)-1-[(3-phenylisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]quinolin-4-amine (0.505 g) as a white powder, mp 215.0-216.0° C.

reactant | 4-Chloro-2-(ethoxymethyl)-1-[(3-phenylisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]quinoline | 3.53 mmol, 1.48 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC(=NO2)C2=CC=CC=C2)COCC | C23H19ClN4O2
reactant | ammonia | 7 M | N | H3N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 2-(ethoxymethyl)-1-[(3-phenylisoxazol-5-yl)methyl]-1H-imidazo[4,5-c]quinolin-4-amine | 0.505 g | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC1=CC(=NO1)C1=CC=CC=C1 | C23H21N5O2
